US07067529B2
A solution of (3-methoxy-5-methyl-phenyl)-acetic acid (512.8 mg, 2.84 mmol), 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester (825 mg, 2.84 mmol), and triethylamine (912 uL, 6.54 mmol) in dry methylene chloride (25 mL) was chilled in an ice bath under argon. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (573 mg, 2.98 mmol) was added in one portion and the mixture stirred at room temperature for 72 hrs. The reaction mixture was poured into ethyl acetate (100 mL) and extracted with 2.5% aqueous potassium bisulfate (3×20 mL), 5% aqueous sodium bicarbonate (3×20 mL), and saturated aqueous sodium chloride (20 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3,4-dimethoxy-phenyl)-3-[2-(3-methoxy-5-methyl-phenyl)-acetylamino]-propionic acid ethyl ester as a light tan foam (0.79 g, 67%). This material was used without further purification: 1H NMR (300 MHz) compatible.

reactant | (3-methoxy-5-methyl-phenyl)-acetic acid | 2.84 mmol, 512.8 mg | COC=1C=C(C=C(C1)C)CC(=O)O | C10H12O3
reactant | 3-amino-2-(3,4-dimethoxy-phenyl)-propionic acid ethyl ester | 2.84 mmol, 825 mg | C(C)OC(C(CN)C1=CC(=C(C=C1)OC)OC)=O | C13H19NO4
reactant | triethylamine | 6.54 mmol, 912 uL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.98 mmol, 573 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3,4-dimethoxy-phenyl)-3-[2-(3-methoxy-5-methyl-phenyl)-acetylamino]-propionic acid ethyl ester | 0.79 g, 67% | C(C)OC(C(CNC(CC1=CC(=CC(=C1)C)OC)=O)C1=CC(=C(C=C1)OC)OC)=O | C23H29NO6
